US04865618
Preparation of 5-amino-2,4-dimethoxy-3-nitrochlorobenzene
The mixture consisting of 0.2 mole (52.5 g) of 3,5-dinitro-2,4-dimethoxychlorobenzene, 15.9 g of palladium on charcoal (10%) in 260 ml of absolute ethanol containing 110 ml of cyclohexene was heated to reflux for 1 hour. The catalyst was removed by filtration. After evaporation to dryness under vacuum, an oil was obtained which crystallized after an addition of iced water. After thorough draining and drying, the product obtained was recrystallized from a benzene and cyclohexane mixture. It melted at 68° C.

reactant | 3,5-dinitro-2,4-dimethoxychlorobenzene | 0.2 mole, 52.5 g | [N+](=O)([O-])C=1C(=C(C=C(C1OC)[N+](=O)[O-])Cl)OC | C8H7ClN2O6
reactant | cyclohexene | C1=CCCCC1 | C6H10
catalyst | palladium on charcoal | 15.9 g | [Pd] | Pd
solvent | ethanol | 260 ml | C(C)O | C2H6O
product | 5-amino-2,4-dimethoxy-3-nitrochlorobenzene | NC=1C(=C(C(=C(C1)Cl)OC)[N+](=O)[O-])OC | C8H9ClN2O4
